US05134231
Methyl 3-oxo-4-methyl-5-benzyloxypentanoate (1.11 g; 4.43 mmole) was dissolved in dry methanol (5 ml), allylamine (1.26 g) and molecular sieve 3A (0.6 g) were added thereto and then a solution of acetyl chloride (1.04 g; 13.3 mmole) in dry methanol (2 ml) was added thereto with icecooling, followed by stirring at 40° C. for 12 hours. The molecular sieve was removed by filtration, and the filtrate was diluted with ethyl acetate. The reaction mixture was washed successively with a saturated sodium bicarbonate solution and an aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (5 ml), and gaseous ketene was introduced therein at room temperature. After completion of the reaction, the solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography to give methyl 2-acetyl-3-allylamino-4-methyl-5-benzyloxy-2-pentenoate.

reactant | Methyl 3-oxo-4-methyl-5-benzyloxypentanoate | 4.43 mmole, 1.11 g | O=C(CC(=O)OC)C(COCC1=CC=CC=C1)C | C14H18O4
reactant | allylamine | 1.26 g | C(C=C)N | C3H7N
reactant | acetyl chloride | 13.3 mmole, 1.04 g | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | methyl 2-acetyl-3-allylamino-4-methyl-5-benzyloxy-2-pentenoate | C(C)(=O)C(C(=O)OC)=C(C(COCC1=CC=CC=C1)C)NCC=C | C19H25NO4
